US07511066B2
A. 3-tert-Butoxycarbonylaminopyridine
3-Aminopyridine (4.29 g, 45.6 mmol) was dissolved in THF (100 mL). A 1 M THF solution of sodium hexamethyl-disilazide (NaHMDS, 100 mL, 100 mmol) was added dropwise via an addition funnel. After 15 min, a solution of di-t-butyl dicarbonate [(Boc)2O] (11.92 g, 54.6 mmol) in THF (100 mL) was added dropwise. After 15 min, the reaction was quenched with water (100 mL) and extracted with EtOAc (500 mL). The organic layer was washed with water (2×100 mL). The aqueous layers were combined and extracted with EtOAc (200 mL). The organic layers were combined, dried over sodium sulfate, filtered, and concentrated. The crude material was purified by flash column chromatography (30% EtOAc/CH2Cl2) to give the desired product (5.195 g, 30.5 mmol, 67%) as an orange solid.

reactant | 3-Aminopyridine | 45.6 mmol, 4.29 g | NC=1C=NC=CC1 | C5H6N2
reactant | sodium hexamethyl-disilazide | 100 mmol, 100 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | di-t-butyl dicarbonate | 54.6 mmol, 11.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | 3-tert-Butoxycarbonylaminopyridine | 30.5 mmol, 5.195 g, 67% | C(C)(C)(C)OC(=O)NC=1C=NC=CC1 | C10H14N2O2
